US09315490B2
354a) (3-Iodo-1H-indol-6-yl)(morpholino)methanone
Potassium hydroxide (422 mg, 7.543 mmol, 3.47 eq), iodine (1.103 g, 4.347 mmol, 2.0 eq) and (1H-indol-6-yl)(morpholino)methanone (500 mg, 2.173 mmol, 1.0 eq) in DMF (10 mL) were stirred at room temperature for 5 h. The reaction mixture was diluted with water (20 mL) and extracted with ethyl acetate (2×15 mL). The combined organic phase was washed with brine (20 mL), dried over anhydrous sodium sulfate and evaporated in vacuo. White solid. Yield: 600 mg (77% of theory)

reactant | Potassium hydroxide | 7.543 mmol, 422 mg, 3.47 eq | [OH-].[K+]
reactant | iodine | 4.347 mmol, 1.103 g, 2.0 eq | II | I2
reactant | (1H-indol-6-yl)(morpholino)methanone | 2.173 mmol, 500 mg, 1.0 eq | N1C=CC2=CC=C(C=C12)C(=O)N1CCOCC1 | C13H14N2O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | (3-Iodo-1H-indol-6-yl)(morpholino)methanone | IC1=CNC2=CC(=CC=C12)C(=O)N1CCOCC1 | C13H13IN2O2
